US05821240
1-Benzylazacycloheptan-4-one oxime
7.2 g of 1-benzylazacycloheptan-4-one are added to a solution of 3.1 g of hydroxylamine hydrochloride and 2.9 g of sodium acetate in 30 ml of water at 60° C. After 2 hours, the mixture is cooled and made alkaline with 2N sodium hydroxide solution. The mixture is extracted four times with diethyl ether, the organic phases are washed with saturated sodium chloride solution and dried over magnesium sulphate, and the solvent is distilled off in a rotary evaporator. The residue is triturated with petroleum ether, filtered off with suction and employed without further purification.

reactant | 1-benzylazacycloheptan-4-one | 7.2 g | C(C1=CC=CC=C1)N1CCC(CCC1)=O | C13H17NO
reactant | hydroxylamine hydrochloride | 3.1 g | Cl.NO
reactant | sodium acetate | 2.9 g | C(C)(=O)[O-].[Na+]
reactant | sodium hydroxide | 2N | [OH-].[Na+]
solvent | water | 30 ml | O | H2O
product | 1-Benzylazacycloheptan-4-one oxime | C(C1=CC=CC=C1)N1CCC(CCC1)=NO | C13H18N2O
